US06800651B2
N-(3-Benzyl-4-chlorophenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine
N-(3-benzyl-4-chlorophenyl)pyrid-3-ylmethylamine (0.04 g, 0.13 mmol)and pyridine (1 ml) was dissolved in DCM. The reaction was cooled in an ice-bath to which was added dropwise 2,2,2-trifluoroethylsulfonyl chloride (0.59 g, 0.32 mmol). The mixture was stirred at room temperature overnight. After evaporation of solvent, the residue was dissolved in EtOAc and washed with cold NaHCO3 and brine, and evaporated to dryness. Chromatography gave the title compound. 1H NMR: 8.51 (d,1H,J=3.9 Hz), 8.27 (s,1H), 7.59 (d,1H,J=7.8 Hz), 7.34 (t,1H,J=8.3 Hz), 7.28 (d,2H,J=7.8 Hz), 7.21 (m,2H), 8.03 (m,3H), 6.89 (d,1H,J=2.4 Hz), 4.78 (s,2H), 4.01 (s,2H), 3.73 (q,2H,J=9.3 Hz). MS calcd 454.1; MS (M+1) 455.0.

reactant | N-(3-benzyl-4-chlorophenyl)pyrid-3-ylmethylamine | 0.13 mmol, 0.04 g | C(C1=CC=CC=C1)C=1C=C(C=CC1Cl)NCC=1C=NC=CC1 | C19H17ClN2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoroethylsulfonyl chloride | 0.32 mmol, 0.59 g | FC(CS(=O)(=O)Cl)(F)F | C2H2ClF3O2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(3-Benzyl-4-chlorophenyl)-N-(2,2,2-trifluoroethanesulfonyl)pyrid-3-ylmethylamine | C(C1=CC=CC=C1)C=1C=C(C=CC1Cl)N(S(=O)(=O)CC(F)(F)F)CC=1C=NC=CC1 | C21H18ClF3N2O2S
